US08119633B2
Methyl 2-(1-(3,4-dichlorophenylsulfonyl)pyrrolidin-2-yl)acetate
A solution of 3,4-dichlorobenzenesulfonyl chloride (1.88 g, 7.65 mmol) in DCM (15 ml) was added dropwise at 0° C. to a solution, cooled to 0° C., of pyrrolidin-2-ylacetic acid methyl ester (1.5 g, 8.4 mmol) in DCM (33 ml) and triethylamine was (2.66 ml, 21 mmol), and stirring was then carried out for 90 minutes at room temperature. 0.5 M HCl (20 ml) was then added, and stirring was carried out for a further 15 minutes. The organic phase was separated, washed with water and dried over sodium sulfate. The solvent was removed using a rotary evaporator and the product was used in the next stage without being purified further. Yield: 2.1 g (77%)

reactant | 3,4-dichlorobenzenesulfonyl chloride | 7.65 mmol, 1.88 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | pyrrolidin-2-ylacetic acid methyl ester | 8.4 mmol, 1.5 g | COC(CC1NCCC1)=O | C7H13NO2
reactant | HCl | 0.5 M, 20 ml | Cl | ClH
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 33 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Methyl 2-(1-(3,4-dichlorophenylsulfonyl)pyrrolidin-2-yl)acetate | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C(CCC1)CC(=O)OC | C13H15Cl2NO4S
